US04540789
Butyl 5-cyano-2,6-dimethyl-4-(2-phenyl-4-oxo-4H-thiochromen-8-yl)-1,4-dihydropyridine-3-carboxylate
10 mmol each of 2-phenyl-4-oxo-4H-thiochromen-8-aldehyde, butyl acetoacetate and 3-aminocrotononitrile were boiled under reflux in 30 ml of ethanol overnight, the mixture was concentrated and the residue was crystallized with ethyl acetate.

reactant | 2-phenyl-4-oxo-4H-thiochromen-8-aldehyde | 10 mmol | C1(=CC=CC=C1)C=1SC2=C(C=CC=C2C(C1)=O)C=O | C16H10O2S
reactant | butyl acetoacetate | C(CC(=O)C)(=O)OCCCC | C8H14O3
reactant | 3-aminocrotononitrile | N\C(=C/C#N)\C | C4H6N2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | Butyl 5-cyano-2,6-dimethyl-4-(2-phenyl-4-oxo-4H-thiochromen-8-yl)-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OCCCC)C=1C=CC=C2C(C=C(SC12)C1=CC=CC=C1)=O | C28H26N2O3S
